US04143055
2,3-dihydro-6-methoxy-2-methyl-4-benzofurancarboxylic acid
To a stirred mixture of 158 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofurancarboxylic acid methyl ester and 88.5 grams of flake sodium hydroxide in 320 cc of water, ethanol is gradually added until a clear solution is obtained.

reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofurancarboxylic acid methyl ester | 158 grams | COC(=O)C=1C=C(C=C2C1CC(O2)C)OC | C12H14O4
reactant | sodium hydroxide | 88.5 grams | [OH-].[Na+]
solvent | water | 320 cc | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-6-methoxy-2-methyl-4-benzofurancarboxylic acid | COC=1C=C2C(CC(O2)C)=C(C1)C(=O)O | C11H12O4
